### PR TITLE
feat: update operation for FinFun

### PR DESCRIPTION
**Pull request by fmontesi**
This PR adds `FinFun.update` and proves some basic results about the functional interface and support of the resulting function.

### CODE REVIEW

File: Cslib/Foundations/Data/FinFun/Update.lean [hunk 1]
```diff
@@ -0,0 +1,78 @@
...
+/-! # Update for finite functions
+
+This module defines the update operation for finite functions, that is, the equivalent of
+`Function.update` for `FinFun`.
+-/
+
+namespace Cslib.FinFun
+
+/-- `FinFun` equivalent of `Function.update`. -/
+def update [Zero β] [DecidableEq α] [∀ b : β, Decidable (b = 0)] (f : α →₀ β) (a : α) (b : β) :
```
Comment (ctchou) [inline Cslib/Foundations/Data/FinFun/Update.lean]: I wonder if it is worthwhile to introduce a `DecidableEqZero` class, as the pattern `[∀ b : β, Decidable (b = 0)]` appears so many times in `FinFun`.

File: Cslib/Foundations/Data/FinFun/Update.lean [hunk 2]
```diff
@@ -0,0 +1,78 @@
...
+/-- Updating a function with a nonempty element yields the same support with, possibly, the addition
+of the key. -/
+@[scoped grind .]
+theorem update_neq_zero_support_eq_union [Zero β] [DecidableEq α] [∀ b : β, Decidable (b = 0)]
+    (f : α →₀ β) (h : b ≠ 0) :
+    (f.update a b).support = f.support ∪ {a} := by grind
+
+/-- Updating a key in the support with a nonempty element preserves the support. -/
+theorem update_neq_zero_support_eq [Zero β] [DecidableEq α] [∀ b : β, Decidable (b = 0)]
+    (f : α →₀ β) (h₁ : f a ≠ 0) (h₂ : b ≠ 0) : (f.update a b).support = f.support := by grind
```
Comment (ctchou) [inline Cslib/Foundations/Data/FinFun/Update.lean]: Are these two theorems really necessary given `update_support` above?

File: Cslib/Foundations/Data/FinFun/Update.lean (hunk 1 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/FinFun/Update.lean]: Agreed, I'll introduce one.

File: Cslib/Foundations/Data/FinFun/Update.lean (hunk 2 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/FinFun/Update.lean]: Mmh, right; also, given the recent discussion on grind parsimony, probably better not to have them for now.

**Comment by fmontesi** [comment]
All done!

File: Cslib/Foundations/Data/FinFun/Update.lean [hunk 3]
```diff
@@ -0,0 +1,68 @@
...
+-/
+
+namespace Cslib.FinFun
+
+/-- `FinFun` equivalent of `Function.update`. -/
+def update [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β) (a : α) (b : β) :
+    α →₀ β where
+  fn := Function.update f.fn a b
+  support := if b = 0 then f.support \ {a} else f.support ∪ {a}
+  mem_support_fn := by grind
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun/Update.lean]: This seems problematic, as the `grind only` suggested by `grind?` fail. If you've not seen the Zulip discussion, the harm is us having to recover this by hand if there is a grind regression that breaks this proof. Could you try making it more explicit to avoid this?

File: Cslib/Foundations/Data/FinFun/Update.lean [hunk 4]
```diff
@@ -0,0 +1,68 @@
...
+/-- `FinFun.update` is consistent with `Function.update`. -/
+@[simp]
+theorem update_coe [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β) :
+    ((f.update a b) : α → β) = Function.update f a b := by
+  grind [update]
+
+/-- Conditional characterisation of the functional interface of `FinFun.update`. -/
+theorem update_apply [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β) :
+    ((f.update a' b) a) = if a = a' then b else f a := by
+  simp only [update_coe, Function.update_apply]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun/Update.lean]: I don't think the performance difference is big enough to squeeze this terminal simp?

```suggestion
  simp [Function.update_apply]
```

File: Cslib/Foundations/Data/FinFun/Update.lean [hunk 5]
```diff
@@ -0,0 +1,68 @@
...
+def update [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β) (a : α) (b : β) :
+    α →₀ β where
+  fn := Function.update f.fn a b
+  support := if b = 0 then f.support \ {a} else f.support ∪ {a}
+  mem_support_fn := by grind
+
+/-- `FinFun.update` is consistent with `Function.update`. -/
+@[simp]
+theorem update_coe [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β) :
+    ((f.update a b) : α → β) = Function.update f a b := by
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun/Update.lean]:
```suggestion
    (f.update a b : α → β) = Function.update f a b := by
```

File: Cslib/Foundations/Data/FinFun/Update.lean [hunk 6]
```diff
@@ -0,0 +1,68 @@
...
+This module defines the update operation for finite functions, that is, the equivalent of
+`Function.update` for `FinFun`.
+-/
+
+namespace Cslib.FinFun
+
+/-- `FinFun` equivalent of `Function.update`. -/
+def update [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β) (a : α) (b : β) :
+    α →₀ β where
+  fn := Function.update f.fn a b
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun/Update.lean:28]: Maybe preferred to write

```suggestion
  fn := Function.update f a b
```
since we usually use the coercion?

File: Cslib/Foundations/Data/FinFun/Update.lean [hunk 7]
```diff
@@ -0,0 +1,68 @@
...
+/-- Conditional characterisation of the functional interface of `FinFun.update`. -/
+theorem update_apply [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β) :
+    ((f.update a' b) a) = if a = a' then b else f a := by
+  simp only [update_coe, Function.update_apply]
+
+/-- Conditional characterisation of the support of an updated `FinFun`. -/
+@[scoped grind =]
+theorem update_support [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β) :
+    (f.update a b).support = if b = 0 then f.support \ {a} else f.support ∪ {a} := by
+  simp only [update]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun/Update.lean]: Same here

```suggestion
  simp [update]
```

File: Cslib/Foundations/Data/FinFun/Update.lean [hunk 8]
```diff
@@ -0,0 +1,68 @@
...
+@[expose] public section
+
+/-! # Update for finite functions
+
+This module defines the update operation for finite functions, that is, the equivalent of
+`Function.update` for `FinFun`.
+-/
+
+namespace Cslib.FinFun
+
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun/Update.lean:22]: I'd use `variable [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β)` here.

File: Cslib/Foundations/Data/FinFun/Update.lean [hunk 9]
```diff
@@ -0,0 +1,68 @@
...
+  mem_support_fn := by grind
+
+/-- `FinFun.update` is consistent with `Function.update`. -/
+@[simp]
+theorem update_coe [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β) :
+    ((f.update a b) : α → β) = Function.update f a b := by
+  grind [update]
+
+/-- Conditional characterisation of the functional interface of `FinFun.update`. -/
+theorem update_apply [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β) :
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun/Update.lean]: This seems like a reasonable `@[simp, grind =]` to me.

File: Cslib/Foundations/Data/FinFun/Update.lean [hunk 10]
```diff
@@ -0,0 +1,68 @@
...
+/-- Updating a finite function on the same key is the same as doing the last update. -/
+@[scoped grind =, simp]
+theorem update_idem [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β) :
+    (f.update a b).update a b' = f.update a b' := by grind [update_apply]
+
+/-- Updates on different keys commute. -/
+@[scoped grind =]
+theorem update_comm [Zero β] [DecidableEq α] [DecidableEqZero β] (f : α →₀ β)
+    (h : a ≠ a') : (f.update a b).update a' b' = (f.update a' b').update a b := by
+  grind [update_apply]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun/Update.lean]: Same issue with `grind?` here.

**Review by chenson2018 — CHANGES_REQUESTED** [review]
Some small style comments and a couple of issues with `grind` maintainability.

**Review by ctchou — APPROVED** [review]
LGTM.

File: Cslib/Foundations/Data/FinFun/Update.lean (hunk 6 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/FinFun/Update.lean:28]: Interesting point.
I'm ok either way, but isn't it a bit weird that the way it's used (so the 'API', one might say) affects the way it's defined? This is the most natural definition since it's an operation to modify the structure, so it's ok to know about its internal implementation.

File: Cslib/Foundations/Data/FinFun/Update.lean (hunk 3 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/FinFun/Update.lean]: Can you give me a link? I can't seem to find the relevant Zulip discussion..

File: Cslib/Foundations/Data/FinFun/Update.lean (hunk 8 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/FinFun/Update.lean:22]: Agreed (I kept the explicit parameter for now, personal taste in how I read some theorems).

**Comment by fmontesi** [comment]
@chenson2018 Should be fine now. I kept grind in some places but checked that grind? worked. Unless we want to preferrably use grind only now? (Will wait for the link to the discussion first.)

**Review by chenson2018 — APPROVED** [review]
Please merge #502 before this to make sure there are no text lints missed.

I pushed a commit with how I'd address the `grind?` issues. In cases where it's a issue, I replace with `grind only` and leave `set_option linter.tacticAnalysis.verifyGrindOnly false in` as appropriate. Elsewhere it is still preferable to use unsqueezed `grind`.

File: Cslib/Foundations/Data/FinFun/Update.lean (hunk 6 above)
Comment (chenson2018) [reply Cslib/Foundations/Data/FinFun/Update.lean:28]: I think it's probably fine either way, I'm fine leaving it.
